US04497650
2,10-Dihydro-10-(methylsulfonyl)-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
The general procedure of Example 17 was employed to prepare the title compound by reaction of 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one, methanesulfonyl chloride and triethylamine in acetone solution. The title compound was isolated and purified by liquid chromatography giving a solid, mp 147° C. (dec.). The confirmatory elemental analysis is shown in Table III.

reactant | 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CC1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)C | C12H14N4O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 2,10-Dihydro-10-(methylsulfonyl)-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CS(=O)(=O)N1C=2N(C3=C1C=CC=C3)C(N(C(N2)(C)C)C)=O | C13H16N4O3S
